US07148173B2
Heterogenization of (chloromethylsilandiyl)bis(cyclopentadienyl) zirconium dichiolide on Silica Modified with MAO
In a flask of 250 ml of capacity it was weighed 5 g of silica modified with MAO commercialized by Witco with a 24.7% weight of Al and it was added 120 ml of toluene. Then, it was added a solution in toluene of (chloromethylsilandiyl)bis(cyclopentadienyl) zirconium dichloride (0.255 mmol of Zr). The reaction mixture was maintained under mechanic stirring at room temperature. After 2 hours of reaction the resulting solid was isolated by filtration and washed with consecutive fractions of toluene at 700° C. up to a total volume of 500 ml. The solid was finally dried under vacuum for 24 hours. The Zr and Al content in the catalyst was determined by ICP and it was 0.36% and 18.1% by weight respectively.

reactant | (chloromethylsilandiyl)bis(cyclopentadienyl) zirconium dichloride | 0.255 mmol | [Cl-].[Cl-].ClC[SiH]=[Zr+2](C1C=CC=C1)C1C=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | (chloromethylsilandiyl)bis(cyclopentadienyl) zirconium | ClC[SiH]=[Zr](C1C=CC=C1)C1C=CC=C1 | InChI=1S/2C5H5.CH3ClSi.Zr/c2*1-2-4-5-3-1;2-1-3;/h2*1-5H;3H,1H2;
